US05488149
113 mg of N-{(1RS, 2RS)-2-(4-bromophenyl)-3-(4-chlorophenyl)-1-methylpropyl}phthalimide prepared in the same manner as in Example 114, was dissolved in 3 ml of toluene, and 99 mg of tributyl(3-thienyl)tin and 14 mg of tetrakis(triphenylphosphine)palladium (0) were added thereto. The mixture was refluxed under heating for 3 hours in a light-shielding nitrogen atmosphere. The reaction solution was left to cool to room temperature. Then, 2 ml of a 5% potassium fluoride aqueous solution was added thereto, and the mixture was stirred for 30 minutes. Insoluble matters were separated by filtration. Then, ethyl acetate and water were added to the filtrate for liquid separation. The organic layer was collected by separation, washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=100/1→30/1) to obtain 83 mg of N-[(1RS, 2RS)-3-(4-chlorophenyl)-1-methyl-2-{4-(3-thienyl)phenyl}propyl]phthalimide

reactant | N-{(1RS, 2RS)-2-(4-bromophenyl)-3-(4-chlorophenyl)-1-methylpropyl}phthalimide | 113 mg | BrC1=CC=C(C=C1)C(C(C)N1C(C=2C(C1=O)=CC=CC2)=O)CC2=CC=C(C=C2)Cl | C24H19BrClNO2
reactant | tributyl(3-thienyl)tin | 99 mg | C(CCC)[Sn](C1=CSC=C1)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(1RS, 2RS)-3-(4-chlorophenyl)-1-methyl-2-{4-(3-thienyl)phenyl}propyl]phthalimide | 83 mg | ClC1=CC=C(C=C1)CC(C(C)N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=C(C=C2)C2=CSC=C2 | C28H22ClNO2S
